US04055586
It is advantageous to introduce the acrylonitrile into the reactor at a space velocity of about 0.05 to 0.6 hr-1. Simultaneously, a gaseous ammonia charge is introduced into the reactor via a distribution device; e.g. a frit at the lower floor of the column, preferably in such an amount that the acrylonitrile and ammonia flow through the reaction chamber at a mole ratio of 2 : 1. According to the method of the present invention, the ammonia is completely absorbed as the gas bubbles rise. Furthermore, the ascending gas bubbles insure an intimate mixing of the reactants and thus an immediate reaction occurs resulting in the formation of bis-(2-cyanoethyl)-amine. The reaction product is removed at the lower end of the reactor above the distribution device. It is recovered as a clear liquid with a water content between 8 and 15% depending on the water concentration in the acrylonitrile. The yields obtained are greater than 90%.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | ammonia | N | H3N
product | bis-(2-cyanoethyl)-amine | C(#N)CCNCCC#N | C6H9N3
